US04016182
30 Parts of 1-nitro-anthraquinone-2-carboxylic acid are entered with stirring over the course of 1 hour into a mixture at 70° consisting of 250 parts of water, 10 parts of hydrazine hydrate and 67 parts of aqueous sodium hydroxide solution (30%). The reaction mass is heated to 80° and stirred at 80° over the course of 4 hours. It is subsequently diluted with 250 parts of water and filtered. The precipitate is stirred into 1000 parts of water and acidified with aqueous hydrochloric acid. The precipitate is filtered off, washed with water until the filtrate is colourless and neutral, and then dried. 20 Parts of 1-amino-anthraquinone-2-carboxylic acid are obtained.

reactant | 1-nitro-anthraquinone-2-carboxylic acid | [N+](=O)([O-])C1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H7NO6
reactant | hydrazine hydrate | O.NN
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 1-amino-anthraquinone-2-carboxylic acid | NC1=C(C=CC=2C(C3=CC=CC=C3C(C12)=O)=O)C(=O)O | C15H9NO4
